Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[H:7],-0.57175617555
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[O:7])[O:9][H:10].[H:8],1.77325653649
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],0.985829981289
[H:1][O:2][C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])=[C:10][H:11]>>[H:1][O:2][C@:3]12[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[C:10]2[H:11],-1.86919270091
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.0872378905
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.7392951747800023
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.785526705130001
[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.7302251379099998
[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-7.941168302789999
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[H:9].[O:3][H:4],4.13589643499
[C:1].[C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-8.36625157024
[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:11]([H:12])[H:13],1.97267197769
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.76239817021
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:4]#[C:3],5.901923936880001
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[H:8],0.32330964938
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],3.75259786847
[C:1]=[C:2]1[C:3]([H:4])[O:5][C:6][C:8]1([H:9])[H:10].[H:7]>>[C:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])[C:8]1([H:9])[H:10],-3.83118420852
[H:10].[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.83222272935
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],1.98774526126
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:4][H:5].[H:1][C:3]([C:2])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],10.609720988400001
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.79874556242
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7].[O:8][H:9],3.12068080213
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])[C:13][H:14],5.30821901061
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],7.08523818085
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:8],4.44199308739
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.36182134
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-1.17363014765
[C:4][C:5]([H:6])([H:7])[H:8].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[H:8],-6.91684781274
[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-3.05292601325
